US07897607B2
2-(Dipropylamino)-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
4-Chloro-5-mesityl-7-methyl-N,N-dipropyl-7H-pyrrolo[2,3-d]pyrimidin-2-amine (50 mg, 0.13 mmol) in aqueous sodium hydroxide (2M, 10 ml) was heated at reflux for 6 hours. The solution was cooled to room temperature and neutralized with acetic acid. The mixture was diluted with water (20 ml) and extracted with ethyl acetate (50 ml×3). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (4:1) to give 39 mg (81%) of the title compound.

reactant | 4-Chloro-5-mesityl-7-methyl-N,N-dipropyl-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 0.13 mmol, 50 mg | ClC=1C2=C(N=C(N1)N(CCC)CCC)N(C=C2C2=C(C=C(C=C2C)C)C)C | C22H29ClN4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 2M, 10 ml | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 2-(Dipropylamino)-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 39 mg, 81% | C(CC)N(C=1NC(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O)CCC | C22H30N4O
